US05157169
In a suitable aprotic solvent (e.g., CH2Cl2, toluene, fluorobenzene, or the like) 1 mole of tetrabutylammonium bromide is dissolved and stirred as 1 mole of Br2 (bromine) is added. This mixture of tetrabutylammonium trihalide and solvent is cooled to 10° before 1 mole of 2-fluoroaniline or 4-fluoroanilin, or a mixture of both, is added. The reaction takes place immediately to produce 4-bromo-2-fluoroaniline.HBr, or 2-bromo-4-fluoroaniline.HBr, or a mixture of the two. The salt is then collected and dried before carrying it up to the next step. Catalyst and solvent are recovered for recycle.

reactant | Br2 | 1 mole | BrBr | Br2
reactant | 2-fluoroaniline | 1 mole | FC1=C(N)C=CC=C1 | C6H6FN
reactant | 4-fluoroanilin | FC1=CC=C(N)C=C1 | C6H6FN
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | fluorobenzene | FC1=CC=CC=C1 | C6H5F
catalyst | tetrabutylammonium bromide | 1 mole | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-bromo-2-fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
